US04783462
4-Ethyl-5-chloro-2-t-butyl-3(2H)pyridazinone
In the same manner as above, the following compounds were prepared from the corresponding 2-alkyl-4,5-dichloro-3(2H)pyridazinones and alkyl magnesium halides: 4-Methyl-5-chloro-2-t-butyl-3(2H) pyridazinone [oily substance, boiling point: 60°-62° C. (0.22 mmHg)], 4-n-propyl-5-chloro-2-t-butyl-3(2H) pyridazinone (oily substance), 4-n-butyl-5-chloro-2-t-butyl-3(2H)pyridazinone (only substance) and 4-n-pentyl-5-chloro-2-t-butyl-3(2H)pyridazinone (oily substance).

reactant | 4-Methyl-5-chloro-2-t-butyl-3(2H) pyridazinone | CC=1C(N(N=CC1Cl)C(C)(C)C)=O | C9H13ClN2O
reactant | 4-n-propyl-5-chloro-2-t-butyl-3(2H) pyridazinone | C(CC)C=1C(N(N=CC1Cl)C(C)(C)C)=O | C11H17ClN2O
reactant | 4-n-butyl-5-chloro-2-t-butyl-3(2H)pyridazinone | C(CCC)C=1C(N(N=CC1Cl)C(C)(C)C)=O | C12H19ClN2O
reactant | 4-n-pentyl-5-chloro-2-t-butyl-3(2H)pyridazinone | C(CCCC)C=1C(N(N=CC1Cl)C(C)(C)C)=O | C13H21ClN2O
product | 4-Ethyl-5-chloro-2-t-butyl-3(2H)pyridazinone | C(C)C=1C(N(N=CC1Cl)C(C)(C)C)=O | C10H15ClN2O
